US08030334B2
A flask is charged with 3-bromopyridine-5-carboxaldehyde (4.12 g, 21.48 mmol), N-Boc-indoleboronic acid (8.59 g, 32.23 mmol), s-Phos (0.68 g, 1.61 mmol), finely crushed potassium phosphate (9.21 g, 42.97 mmol) and toluene (70 mL). After degassing for 1 h, Pd2dba3 (0.40 g, 0.43 mmol) is added, the flask is flushed with nitrogen and the mixture is heated to 85° C. After 30 min, the mixture is allowed to cool to r.t., diluted with ethyl acetate and filtered through a plug of silica gel. Silica gel (50 g) is added to the filtrate and the mixture is concentrated in vacuo. The residue is heated to 60° C. with gentle stirring under oil pump vacuum overnight. The mixture is then loaded on a silica gel flash chromatography column and eluted (heptane-ethyl acetate, 4:1 to 2:3) to give 5-(1H-indol-2-yl)-pyridine-3-carbaldehyde. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.02-7.08 (m, 1H), 7.14-7.19 (m, 1H), 7.20 (d, J=1.5 Hz, 1H), 7.45 (d, J=8.1 Hz, 1H), 7.59 (d, J=8.1 Hz, 1H), 8.66 (t, J=2.1 Hz, 1H), 9.00 (d, J=1.8 Hz, 1H), 9.39 (d, J=2.3 Hz, 1H), 10.18 (s, 1H), 11.86 (br. s., 1H). MS (ESI) m/z 223.02 (M+H)+.

reactant | 3-bromopyridine-5-carboxaldehyde | 21.48 mmol, 4.12 g | BrC=1C=NC=C(C1)C=O | C6H4BrNO
reactant | N-Boc-indoleboronic acid | 32.23 mmol, 8.59 g | C(=O)(OC(C)(C)C)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | s-Phos | 1.61 mmol, 0.68 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 42.97 mmol, 9.21 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2dba3 | 0.43 mmol, 0.40 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(1H-indol-2-yl)-pyridine-3-carbaldehyde | N1C(=CC2=CC=CC=C12)C=1C=C(C=NC1)C=O | C14H10N2O
